US07074817B2
{1-Benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid
1-Benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid was prepared from ethyl {1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate (1.1 g, 2.4 mmol), and potassium hydroxide (0.44 g, 7.8 mmol) in THF (25 mL) and water (25 mL), according to the procedure described in Step 4 of Example 5. Crystallization from methylene chloride/hexane yielded the title compound as a light yellow solid (0.596 g, 54%), mp: 141-142° C. Mass spectrum (+ESI, [M+H]+) m/z 440; 1HNMR (500 MHz, DMSO-d6): δ 13.8-14.2 (br s, 1H), 8.75 (s, 1H), 8.45 (s, 1H), 7.7 (m, 2H), 7.6 (t, 3H, J=4.4 Hz), 7.25-7.35 (m, 6H), and 5.65 ppm (s, 2H).

reactant | ethyl {1-benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetate | 2.4 mmol, 1.1 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO4
reactant | potassium hydroxide | 7.8 mmol, 0.44 g | [OH-].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | {1-Benzyl-5-[3-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid | 0.596 g, 54% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)C(C(=O)O)=O | C24H16F3NO4
